* Z:\mnt\spice-netlists\LTC3852_F16.asc
M§Q1 IN N002 N004 N004 IRF6623
L1 N004 N005 .4µ
C1 OUT 0 470µ X2
R1 OUT N007 17.4K
R2 N007 0 20K
C2 N003 N004 .1µ
C3 N001 0 4.7µ
C5 N011 0 .001µ
V1 IN 0 3.3
D1 N001 N003 CMDSH2-3
M§Q2 N004 N006 0 0 IRF6623
R3 N005 N008 100
C7 N008 N010 1000p
Rload OUT 0 0.1
XU1 NC_01 N009 IN N011 N014 N007 N010 N008 NC_02 0 N006 N001 N001 N003 N002 N004 0 IN IN N001 N015 N012 LTC3852
R4 N009 0 82.5K
C8 N012 N015 2.2µ
C6 IN 0 220µ
C9 IN 0 10µ
R5 OUT N005 0.002
R6 OUT N010 100
R7 N014 N013 5.9K
C4 N013 0 2200p
C10 N014 0 150p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC3852 - Low Input Voltage, Synchronous Step-Down DC/DC Controller\nHigh Efficiency 3.3V to 1.5V @ 15A Step-Down Converter\nInput: 2.7V to 5.5V              Output: 1.5V @ 15A
.lib LTC3852.sub
.backanno
.end
