* Z:\mnt\spice-netlists\LTC3859_F12.asc
XU1 0 NC_01 N009 IN N019 N012 N024 0 NC_02 NC_03 NC_04 OUT2 N018 N023 N025 N008 NC_05 N013 N017 N015 N021 N001 NC_06 OUT3 N022 N014 N016 N020 N006 N003 N004 N002 NC_07 N007 N011 N010 N005 OUT1 0 LTC3859
V1 IN 0 14
L1 N019 N020 1.2µ
R1 N019 IN 2m
M§Q1 OUT3 N016 N020 N020 BSC027N04LS
M§Q2 N020 N022 0 0 BSC018N04LS
C1 OUT3 0 220µ
C2 N014 N020 .1µ
R2 N012 OUT3 499K
R3 0 N012 68.1K
C3 N008 0 .001µ
C4 N007 0 .001µ
C5 0 N001 4.7µ
C6 N019 IN .001µ
D1 N001 N014 BAT54
C7 N024 0 .01µ
M§Q3 OUT3 N002 N004 N004 BSZ097N04LS
M§Q4 N004 N006 0 0 BSZ097N04LS
C8 N003 N004 .1µ
D2 N001 N003 BAT54
L2 N004 N005 4.9µ
R4 N005 OUT1 6m
C9 OUT1 0 220µ
C10 N005 OUT1 .001µ
R5 N010 OUT1 357K
R6 0 N010 68.1K
C11 N011 0 1500p
M§Q5 OUT3 N013 N017 N017 BSZ097N04LS
M§Q6 N017 N021 0 0 BSZ097N04LS
C12 N015 N017 .1µ
D3 N001 N015 BAT54
L3 N017 N018 6.5µ
R7 N018 OUT2 8m
C13 OUT2 0 68µ
C14 N018 OUT2 .001µ
R8 N023 OUT2 649K
R9 0 N023 68.1K
C15 N025 0 2200p
Rload1 OUT1 0 1
Rload2 OUT2 0 2.8
C17 N009 0 .001µ
Rload3 OUT3 0 19
C16 IN 0 220µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011, 2014 Linear Technology Inc. All rights reserved.
* LTC3859 - Low IQ, Triple Output, Buck/Buck/Boost Synchronous Controller\nHigh Efficiency Boost / Dual Buck Supply\nInput: 2.5V to 38V, Startup above 5V     Output: 5V @ 5A, 8.5V @ 3A & 10V+ @ 2A, Fsw = 350kHz
* 10V when Vin < 10V, \nFollows Vin when Vin > 10V
.lib LTC3859.sub
.backanno
.end
