* Z:\mnt\spice-netlists\LTC3880_F27.asc
V1 IN 0 15
C1 0 N001 1µ
M§Q1 IN N002 N004 N004 RJK0305DPB
M§Q2 N004 N008 0 0 RJK0301DPB
L1 N004 OUT1 .56µ
C2 N005 N004 .1µ
D1 N001 N005 CMDSH2-3
C3 N011 N010 .22µ
R1 N004 N011 1.58K
C4 N014 0 2200p
C5 OUT1 0 530µ
R2 N016 N021 24.9K
R3 0 N016 11.3K
R4 N018 N019 10K
R5 N023 N018 4.99K
R6 N017 N021 10K
R7 0 N017 15.8K
R8 N022 N021 20K
R9 0 N022 12.7K
C6 N015 0 4700p
M§Q3 IN N003 N007 N007 RJK0305DPB
M§Q4 N007 N009 0 0 RJK0301DPB
L2 N007 OUT0 1µ
C7 N006 N007 .1µ
D2 N001 N006 CMDSH2-3
C8 N012 N013 .22µ
R10 N007 N012 2K
C9 OUT0 0 530µ
R11 N018 N020 10K
C10 N021 0 1µ
C11 N018 0 1µ
XU1 OUT0 0 N011 N010 N015 N012 N013 N023 MP_01 MP_02 MP_03 MP_04 MP_05 N020 N019 MP_06 N022 N017 N016 NC_07 0 N021 MP_08 MP_09 N018 N014 OUT1 MP_10 N004 N002 N005 N008 N001 0 IN N009 N006 N003 N007 MP_11 0 LTC3880 VIN_ON=5.5 VIN_OFF=5 Vout_0=1.6 Vout_1=2.5 Ilim0_range=0 Ilim1_range=0 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m Freq=500K PHs_0=0 PHs_1=180 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
R12 N010 OUT1 1.5K
C12 N010 OUT1 1µ
R13 OUT0 N013 2K
C13 OUT0 N013 1µ
Rload1 OUT1 0 .12
Rload0 OUT0 0 .22
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran  1.2m startup
* Please read the following notes carefully, since the model presents different user interface\nthan the real part does.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTC3880. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, \n                425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float \n                (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. \n                Certain combinations are restricted as in datasheet. FREQ_CFG \n                pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0\n                                                      for 4.096V (CH0) and 5.5V (CH1); value 1\n                                                      for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n                           for low 50mV, and 1 for high 75mV;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined\n                      by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, \n                      0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for Burst,\n                      2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                                 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;
* LTC3880 - Dual Output PolyPhase Step-Down DC/DC Controller with Digital Power System Management\nHigh Efficiency Dual 500kHz 3.3V/1.8V Step-Down Converter\nInput: 6V to 24V     Output: 3.3V @ 15A & 1.8V @ 15A
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc.  All rights reserved.
* 3.3V @ 15A
* 1.8V @ 15A
.lib LTC3880.sub
.backanno
.end
