* Z:\mnt\spice-netlists\LTC6752_F12.asc
V2 VCC 0 3.3
XU1 IN N001 VCC 0 OUT LTC6752
V1 IN 0 PULSE(0 1.7 .5m 0 0 15n .5m 5)
XU2 N003 N005 VCC 0 N002 LTC6752
R1 IN 0 49.9
R2 VCC N001 15K
R3 N001 0 49.9
C1 N001 0 1000p
R4 IN N004 1K
D1 N002 N004 1N914
R5 OUT N003 22K
R6 0 N003 2K
R7 N003 N002 22K
R8 N005 N002 6.65K
C2 N005 0 100p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m
* LTC6752 - 280MHz, 2.9ns Comparator Family with Rail-to-Rail Inputs and CMOS Outputs \nPulse Stretcher Circuit/Monostable Multivibrator
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc.  All rights reserved.
.lib LTC7.lib
.backanno
.end
