* Z:\mnt\spice-netlists\LTC3838_F16A_DC1626A-A.asc
XU1 N018 N016 0 NC_01 NC_02 NC_03 0 N021 0 N015 N017 N019 0 N013 OUT1 N002 NC_04 N003 N007 N005 N009 N011 N001 IN 0 N002 NC_05 N001 N012 N010 N006 N008 N004 NC_06 N002 OUT2 N014 N020 LTC3838
R1 N021 0 115K
V1 IN 0 24
C1 0 N001 4.7µ
R2 N001 N002 2.2
M§Q1 IN N005 N009 N009 BSC093N04LS
M§Q2 N009 N011 0 0 BSC035N04LS
D1 N001 N007 MBRS140
C2 N007 N009 .1µ
L1 N009 OUT1 .56µ
R3 N013 N009 3.57K
R4 N013 OUT1 15K
C3 N013 OUT1 .1µ
C4 N015 0 220p
C5 N017 0 .001µ
R5 OUT1 N019 10K
R6 N019 0 10K
M§Q3 IN N006 N010 N010 BSC093N04LS
M§Q4 N010 N012 0 0 BSC035N04LS
D2 N001 N008 MBRS140
C6 N008 N010 .1µ
L2 N010 OUT2 .56µ
R7 N014 N010 3.57K
R8 N014 OUT2 15K
C7 N014 OUT2 .1µ
C8 N016 0 220p
C9 N018 0 .001µ
R9 OUT2 N020 15K
R10 N020 0 10K
R11 N002 N003 100K
R12 N002 N004 100K
C10 N002 0 1µ
C11 IN 0 100µ
C12 IN 0 10µ x3
C13 OUT1 0 100µ
C14 OUT1 0 330µ
C15 OUT2 0 330µ
C16 OUT2 0 100µ
Rload1 OUT1 0 .08
Rload2 OUT2 0 .1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3838 - Dual, Fast, Accurate Step- Down DC/DC Controller with Differential Output Sensing\nWide Input Range, High Efficiency Step-Down DC/DC Converter with DCR Current Sensing\nInput: 4.5V to 26V    Output: 1.2V @ 15A & 1.5V & 15A, Fsw = 300kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* 1.2V @ 15A
* 1.5V & 15A
.lib LTC3838.sub
.backanno
.end
