* Z:\mnt\spice-netlists\LTC3887_F34_F07.asc
V1 IN 0 15
C1 N001 0 1µ
M§Q1 IN N002 N004 N004 RJK0305DPB
M§Q2 N004 N008 0 0 RJK0301DPB
L1 N004 OUT1 .56µ
C2 N005 N004 .1µ
D1 N001 N005 CMDSH2-3
C3 N010 N012 .22µ
R1 N004 N010 1.58K
C4 N015 0 220p
C5 OUT1 0 530µ
R2 N018 N019 10K
R3 N021 N018 4.99K
R4 N023 N022 20K
R5 N023 0 12.7K
M§Q3 IN N003 N007 N007 RJK0305DPB
M§Q4 N007 N009 0 0 RJK0301DPB
L2 N007 OUT0 1µ
C6 N006 N007 .1µ
D2 N001 N006 CMDSH2-3
C7 N011 N013 .22µ
R6 N007 N011 2K
C8 OUT0 0 530µ
R7 N018 N020 10K
C9 N022 0 1µ
C10 N018 0 1µ
R8 OUT1 N012 1.5K
C11 N012 OUT1 1µ
R9 OUT0 N013 2K
C12 OUT0 N013 1µ
XU1 OUT0 0 N010 N012 N016 N011 N013 N021 NC_01 MP_02 MP_03 MP_04 MP_05 N020 N019 MP_06 N023 NC_07 NC_08 MP_09 MP_10 N022 MP_11 MP_12 N018 N015 OUT1 MP_13 N004 N002 N005 N008 N001 0 IN N009 N006 N003 N007 MP_14 0 LTC3887 VIN_ON=5.5 VIN_OFF=5 Vout_0=3.3 Vout_1=1.8 Ilim0_range=0 Ilim1_range=0 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m Freq=500K PHs_0=0 PHs_1=180 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=1
R10 N015 N014 4.99K
C13 N014 0 2200p
C14 N016 0 220p
R11 N016 N017 4.99K
C15 N017 0 4700p
Rload1 OUT1 0 .18
Rload0 OUT0 0 .33
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran  1.2m startup
* LTC3887 - Dual Output PolyPhase Step-Down DC/DC Controller with Digital Power System Management\nHigh Efficiency Dual 500kHz 3.3V/1.8V Step-Down Converter\nInput: 6V to 24V     Output: 3.3V @ 15A & 1.8V @ 15A
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc.  All rights reserved.
* 3.3V @ 10A
* 1.8V @ 10A
* Please read the following notes carefully, since the model presents different user interface\nthan the real part does.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTC3887. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, \n                425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float \n                (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. \n                Certain combinations are restricted as in datasheet. FREQ_CFG \n                pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0\n                                                      5.5V; value 1 for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n                           for low 50mV, and 1 for high 75mV;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined\n                      by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, \n                      0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                                 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;
.lib LTC3887.sub
.backanno
.end
